US07902201B2
e) 5-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 2b, 5-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid (44 mg, 13.3 mmol), instead of 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid, was converted, using 4-aminotetrahydropyran instead of aminomethylcyclopropane, to the title compound (SiO2, ethyl acetate then DCM:MeOH=90:10, 31 mg, 56%) which was obtained as a white solid. MS: m/e=414.2 [M+H]+.

reactant | 5-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid | 13.3 mmol, 44 mg | FC=1C=CC(=NC1)C1=NOC(=C1COC=1N=CC(=NC1)C(=O)O)C | C15H11FN4O4
reactant | 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=CC(=NC1)C(=O)O | C16H13N3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid (tetrahydro-pyran-4-yl)-amide | O1CCC(CC1)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F | C20H20FN5O4
